US06191124B1
A solution of (2-Phenylethyl)-3-methylimidazo[2,1-b]thiazol-5-yl methanone (Formula B-6) (0.40 g) in THF (6 mL) was treated with 3M ethereal methyl magnesium bromide (0.6 mL) and reacted for 18 hours. The suspension was treated with 5% NH4Cl solution and precipitated α,3-Dimethyl-α-(2-phenylethyl)imidazo[2,1-b]thiazole-5-methanol (Formula B-7) was extracted into ethyl acetate. The extract was dried and evaporated to a viscous residue which deposited α,3-Dimethyl-α-(2-phenylethyl)imidazo[2,1-b]thiazole-5-methanol (Formula B-7) (0.25 g) by ether trituration. Crystallization of the filter cake from ethyl acetate gave pure α,3-Dimethyl-α-(2-phenylethyl)imidazo[2,1-b]thiazole-5-methanol (Formula B-7) (0.13 g), m.p. 131-133°.

reactant | (2-Phenylethyl)-3-methylimidazo[2,1-b]thiazol-5-yl methanone | 0.40 g | C1(=CC=CC=C1)CCC(=O)C1=CN=C2SC=C(N21)C | C15H14N2OS
reactant | methyl magnesium bromide | 3M, 0.6 mL | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | α,3-Dimethyl-α-(2-phenylethyl)imidazo[2,1-b]thiazole-5-methanol | 0.13 g | CC(O)(C1=CN=C2SC=C(N21)C)CCC2=CC=CC=C2 | C16H18N2OS
